US07368578B2
To a mixture of ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carboxylate (0.15 g), tetrahydrofuran (2 mL) and ethanol (2 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was heated under reflux for 1 hr. The reaction mixture was neutralized by adding 1N hydrochloric acid and water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carboxylic acid as crystals (0.10 g, yield 71%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 176-177° C.

reactant | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carboxylate | 0.15 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C | C30H29N3O6
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carboxylic acid | 0.10 g, yield 71% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C | C28H25N3O6
